US06489487B1
To a solution of 9.92 g (39.17 mmol) of 3-(1-(benzyloxyimino)ethyl)benzaldehyde in 70 ml of dry methanol and 70 ml of dry tetrahydrofuran was added 1.81 g (43 mmol) of sodium borohydride portionwise with ice-cooling, and the mixture was stirred for 2 hours with ice-cooling. Further, 0.30 g of sodium borohydride portionwise was added thereto with ice-cooling, and the mixture was stirred for 2 hours with ice-cooling. The reaction mixture was poured into 500 ml of an about 5% aqueous solution of ammonium chloride, and the mixture was extracted with tert-butyl methyl ether. The organic layer was dried and concentrated to obtain 9.64 g (37.8 mmol) of 3-(1-(benzyloxyimino)ethyl)benzylalcohol.

reactant | 3-(1-(benzyloxyimino)ethyl)benzaldehyde | 39.17 mmol, 9.92 g | C(C1=CC=CC=C1)ON=C(C)C=1C=C(C=O)C=CC1 | C16H15NO2
reactant | sodium borohydride | 43 mmol, 1.81 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.30 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 70 ml | CO | CH4O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 3-(1-(benzyloxyimino)ethyl)benzylalcohol | 37.8 mmol, 9.64 g | C(C1=CC=CC=C1)ON=C(C)C=1C=C(CO)C=CC1 | C16H17NO2
